US08648087B2
Step B: Preparation of 7-(2-methyl-4-nitrophenoxy)-[1,2,4]triazolo[1,5-a]pyridine:
To a cooled (0° C.) solution of (Z)-N,N-dimethyl-N′-(4-(2-methyl-4-nitrophenoxy)pyridin-2-yl)formamidine (1.00 g, 3.33 mmol) in methanol (5 mL) was added pyridine (0.54 mL, 6.66 mmol) and hydroxylamine sulfonic acid (0.427 g, 3.66 mmol). After stirring at room temperature for 2 hours, the precipitate was filtered to provide the product (0.442 g, 49%) as white solid.

reactant | (Z)-N,N-dimethyl-N′-(4-(2-methyl-4-nitrophenoxy)pyridin-2-yl)formamidine | 3.33 mmol, 1.00 g | CN(\C=N/C1=NC=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C)C | C15H16N4O3
reactant | pyridine | 6.66 mmol, 0.54 mL | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine sulfonic acid | 3.66 mmol, 0.427 g | N(O)S(=O)(=O)O | H3NO4S
solvent | methanol | 5 mL | CO | CH4O
product | 7-(2-methyl-4-nitrophenoxy)-[1,2,4]triazolo[1,5-a]pyridine | 0.442 g, 49% | CC1=C(OC2=CC=3N(C=C2)N=CN3)C=CC(=C1)[N+](=O)[O-] | C13H10N4O3
